US07557102B2
(2-Bromo-1-bromomethylethoxy)-tert-butyldimethylsilane
26.7 g (122.4 mmol) of 1,3-dibromopropan-2-ol are dissolved in 150 ml of DCM, and 18.35 g (269.59 mmol) of imidazole are added. 18.47 g (122.54 mmol) of tert-butyldimethylchlorosilane in 150 ml of DCM are subsequently added dropwise. The mixture is left to stir at RT for 18 h, subjected to conventional work-up, giving, as crude product, 39.1 g (Y=95.9%) of step 1 as colourless oil, which is employed directly in step 2.

reactant | 1,3-dibromopropan-2-ol | 122.4 mmol, 26.7 g | BrCC(CBr)O | C3H6Br2O
reactant | imidazole | 269.59 mmol, 18.35 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 122.54 mmol, 18.47 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | (2-Bromo-1-bromomethylethoxy)-tert-butyldimethylsilane | BrCC(O[Si](C)(C)C(C)(C)C)CBr | C9H20Br2OSi
